US04539419
A mixture of 2.4 g of [[8-acetyl-7-[2-[2-bromoethoxy)ethoxy]-2-naphthalenyl]oxy]acetic acid methyl ester, 1.32 g of 1-(2,4-dihydroxy-3-propylphenyl)-ethanone and 1.17 g of anhydrous potassium carbonate in 48 ml of anhydrous acetone and 16 ml of anhydrous dimethylformamide was stirred at reflux for 18 hours. The mixture was filtered and filtrate was concentrated to an oil. The oil was purified by flash column chromatography (10% ethyl acetate-toluene) to yield 2.3 g, mp. 89°-90° C. (76%) of [[8-acetyl-7-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]-2-naphthalenyl]oxy]acetic acid methyl ester.

reactant | [[8-acetyl-7-[2-[2-bromoethoxy)ethoxy]-2-naphthalenyl]oxy]acetic acid methyl ester | 2.4 g | COC(COC1=CC2=C(C(=CC=C2C=C1)OCCOCCBr)C(C)=O)=O | C19H21BrO6
reactant | 1-(2,4-dihydroxy-3-propylphenyl)-ethanone | 1.32 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | potassium carbonate | 1.17 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 48 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | [[8-acetyl-7-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]-2-naphthalenyl]oxy]acetic acid methyl ester | 2.3 g, 76% | COC(COC1=CC2=C(C(=CC=C2C=C1)OCCOCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)C(C)=O)=O | C30H34O9
